US04260816
Ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate
A solution of 10.0 g. of 6-(2-naphthyloxy)-1-hexanol O-methanesulfonate and 9.7 g. of ethyl 4-aminobenzoate in 50 ml. of hexamethylphosphoramide is heated at 110° C. for 16 hours. The solution is cooled, diluted with water, filtered and the solid washed with ethanol and water to give 7.7 g. of product. Recrystallization from ethanol and once from acetone-hexane gives crystals, m.p. 109°-110° C.

reactant | 6-(2-naphthyloxy)-1-hexanol O-methanesulfonate | CS(=O)(=O)OCCCCCCOC1=CC2=CC=CC=C2C=C1 | C17H22O4S
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl p-{[6-(2-naphthyloxy)hexyl]amino}benzoate | C1=C(C=CC2=CC=CC=C12)OCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C25H29NO3
